* C:\Users\13372\Documents\GitHub\TNCMCU\Schematic\Ltspice\PTT circuit\PTT_Mosfet.asc
M1 Vd N003 0 0 Si7336ADP
R1 N001 Vd 10k
V1 N001 0 15
V2 N002 0 3.3V
R2 N003 0 10k
D§led N003 P001 D
R4 P001 0 1000
R3 N003 N002 1
.model D D
.lib C:\Users\13372\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\13372\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100ms
.backanno
.end
